US06002008
6,7-Dimethoxy-4-(4-methoxy -2-methyl-phenylamino)-quinoline-3-carbonitrile
A reaction mixture of 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile, 164.6 mg (1.2 mmol) of 4-methoxy-2-methyl-aniline and 115.6 mg (1 mmol) of pyridine hydrochloride in 10 mL of 2-ethoxyethanol was refluxed under N2 for 3 hr. After removal of the solvent, the residue was diluted with water and neutralized to pH 7-8 with diluted sodium carbonate solution. The precipitate was filtered and washed with water and ether. After drying in vacuo, this yielded 250.2 mg (71.7%) of the product as a off red solid, m.p.>131° C(dec.), mass (electrospray, m/e): M+H 349.9.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 4-methoxy-2-methyl-aniline | 1.2 mmol, 164.6 mg | COC1=CC(=C(N)C=C1)C | C8H11NO
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 6,7-Dimethoxy-4-(4-methoxy -2-methyl-phenylamino)-quinoline-3-carbonitrile | COC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=C(C=C(C=C1)OC)C | C20H19N3O3
